US07057057B2
Dimethylformamide (DMF, anhydrous, 14 mL) was cooled to 0-5 ° C. and phosphorus oxychloride (8.2 mL) was added dropwise over a period of 40 minutes. The resulting solution was added dropwise to a cooled (0-5° C.) solution of 4-phenyl-3-buten-2-ol (10 g) in 32 mL of anhydrous DMF over a period of an hour. The reaction mixture was warmed to room temperature over a 35-minute period and then gradually heated up to 80° C. over a period of 45 minutes. The reaction was stirred at 80° C. for three hours and then cooled to 0-5° C. To the cooled reaction solution was added dropwise a solution of sodium acetate (40 g) in deionized water (100 mL) over a period of one hour. The mixture was then reheated to 80° C., stirred at 80° C. for an additional 10 minutes, cooled down to room temperature and extracted with ether (100 mL) twice. The combined extract was washed with brine (100 mL), dried over anhydrous sodium sulfate, filtered and concentrated under vacuum to yield 8.78 g of the desired 5-phenyl-2,4-pentadienal as a liquid which was used in the next step without further purification. 1H NMR (CDCl3, 300 MHz), δ(ppm) 7.51 (m, 2 H), 7.37 (m, 3 H), 7.26 (m, 1 H), 7.01 (m, 2 H), 6.26 (m, 1 H). The synthesis is summarized in Scheme I.

reactant | phosphorus oxychloride | 8.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-phenyl-3-buten-2-ol | 10 g | C1(=CC=CC=C1)C=CC(C)O | C10H12O
reactant | sodium acetate | 40 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 32 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | Dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
product | 5-phenyl-2,4-pentadienal | 8.78 g | C1(=CC=CC=C1)C=CC=CC=O | C11H10O
